* /Users/dominikguz/Documents/git/github/rftools/Simulation/LTSPICE/BuildingBlocks/Filter/Bandpass/6m/BPF_3O.asc
VSRC1 N001 0 AC 1 Rser=50
RL1 0 N003 50
C1 N003 N002 2.35p
C2 0 N001 795.7p
C3 0 N003 795.7p
L1 N001 N002 3.979µ
L2 N001 0 11.8n
L3 0 N003 11.8n
.ac oct 10k 1 100000k
.backanno
.end
